Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Otitis Media/Externa, Acute Sinusitis, Acute Renal Failure."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old Male with Type 2 Diabetes, Benign Hypertension, 
Ventral Hernia who presents with several days of severe ear 
pain, purulent drainage and tinitus. The patient notes that 8 
days prior to admission he developed a URI with cough and 
rhinorhea. 7 days prior to admission he developed tinitus and 
the following morning developed severe Right ear pain. He tried 
ibuprofen and tylenol without relief. He states the pain was so 
severe he couldn't sleep. He contacted his PCP, ___ at 
___ who was concerned given his diabetes and exam, and sent 
him to the ED. In the ED he was given azithromycin. By this 
point he had developed bilateral zygomatic pain and now his left 
ear was painful as well. He also now was producing green sputum.
.
The following day he developed right ear drainage, and the pain 
was now ___ with continued tinitus. His PCP again sent him to 
the ED. In the ED he was given IV ciprofloxacin and IV fluids. 
On arrival to the floor he was seen by the ENT consult. They 
noted a perforated right ear drum along with purulent drainage, 
acute sinusitis and right otitis externa and left otitis media. 
They also noted an abnormality on his vocal chords which will 
need follow up in ___ clinic.

Of note, he reports highly labile blood glucose.
 
Past Medical History:
-Type 2 Diabetes
-Benign Hypertension
-Stab Wound & Industrial accident in abdomen with ex-laps
-CKD Stage II (baseline creatine 1.3 to 1.5)
 
Social History:
___
Family History:
Mother: in her ___ insulin dependent DM
Father: Died (unknown causes)
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding, Severe ear pain, tinittus, purulent 
drainage
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, + productive Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
.
Admission PE 
PHYSICAL EXAM:
VSS: 97.4, 142/95, 112, 18, 93%RA
GEN: moderate discomfort, Obese
Pain: ___ (was ___ prior to opiates)
HEENT: EOMI, MMM, - OP Lesions, purulent drainage R ear with 
otitis, R TM perforation, otitis externa, Left otitis media, b/l 
zygomatic tenderness, left mastoid tenderness
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT, massive vetral hernia
EXT: - CCE
NEURO: CAOx3, Non-Focal
.
Discharge PE
VS:  
Tm: 98.7 Tc: 98.1 BP: 148/98 HR: 95 RR: 18 O2 Sats 97 on RA  
.  
pain: per above  
GEN: AAOX3, in NAD  
HEENT: CN ___ grossly intact, MMM, no TTP in left maxilla, 
minimally TTP in a band like pattern on posterior portion of 
neck in C5-C7 area, no mastoid tenderness, no pain when 
manipulating tragus or pinna  
CV: RRR, no rmg  
RESP: posterior end expiratory wheeze  
ABD: massive abdominal wall hernia, no TTP, soft, no hsm, active 
bs  
EXTR: WWP, trace ble edema, 2+ pulses  
DERM: no obvious rashes  
neuro: CN and MS wnl, strength and sensation wnl  
PSYCH: mood and affect wnl  

 
Pertinent Results:
___ 02:20PM BLOOD WBC-8.4 RBC-3.68* Hgb-11.4* Hct-34.1* 
MCV-93 MCH-31.0 MCHC-33.5 RDW-13.4 Plt ___
___ 02:20PM BLOOD Neuts-67.3 ___ Monos-8.6 Eos-1.1 
Baso-0.8
___ 02:20PM BLOOD Glucose-135* UreaN-37* Creat-2.6*# Na-136 
K-4.6 Cl-104 HCO3-21* AnGap-16
___ 03:42PM BLOOD Lactate-1.8
.
___ 3:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
.
CXR ___ 
Heart is moderately enlarged, and although the pulmonary 
vascular circulation 
is not engorged, there is mild distension of mediastinal veins. 
Tiny 
bilateral pleural effusion may be present. There is no pulmonary 
edema.  
Lungs are clear. Lateral view also raises the possibility of 
pericardial 
effusion best evaluated either clinically in combination with 
EKG or by 
ultrasound. Dr. ___ was paged at the time of dictation. 
.
___ 7:01 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
.

 
Brief Hospital Course:
This is a ___ yo M with a PMHx of CKD (baseline creatine of 
1.3-1.5) DM-2 who presents to ___ with a prodrome of upper 
respiratory symptoms and purulent discharge from ears, tinnitus 
and occipital and neck pain, found to have right otitis media 
and otitis externa, a perforated right TM and acute on chronic 
renal failure 
.
#Acute Renal Failure on Stage 2 CKD
The patient p/w acute illness and ARF which is likely due to 
hypovolemia.  His urine lytes were drawn and they indicated a 
FENA well below 1 (0.3), indicating a pre-renal cause to his 
ARF.  As a result he was aggressively hydrated with IV fluids 
and his creatine returned to his baseline of 1.5 on the day or 
discharge.  Due to the patient receiving multiple antibiotics, 
we also checked urine eosinophils, which were negative.  The 
patient UA showed some pyuria without evidence of bacteria.  His 
urine culture also returned negative so no further work up was 
done.  He should have a follow up BUN and creatine prior to his 
visit with his PCP ___ ___ weeks. 
.
# Acute Sinusitis causing Otitis Media and Otitis Externa
The patient likely had a prodromal viral vs. bacteria infection 
causing swelling and decreased draining from the inner ear.  As 
a result, otitis media, TM perforation and subsequent otitis 
externa resulted.  The patient is at increased risk due to his 
DM.  Cultures of his purulent fluid from his ear were never sent 
in the ED.  The patient was seen by the ENT service who 
recommended cipro/dex ear drops, systemic treatment with 
Augmentin, nasal flushes and follow up with them in ___ weeks.  
The patient was initially started on Unasyn and narrowed down to 
Augmentin with continued clinical improvement.  The patient did 
not show consistent pain in the mastoid area and the clinical 
suspicion for mastoiditis was low.  The patient was sent home on 
a short course of morphine ___ (40 tabs dispensed) for pain 
control and a bowel regimen.  An exhaustive effort was made by 
myself and the nursing staff to secure the patients 
prescriptions.  Mass health does not cover cipro ear drops, the 
only fluoroquinolone they cover is ofloxacin (which does is not 
anti-pseudomonal).  As a result, the patient was dispensed 
enough Cipro and dexamethasone ear drops to last until his 
follow up with ENT.  The patient should also follow dry ear 
precautions, per ENT's instructions.       
.
#Vocal cord abnormality
This was noted on ENT's physical exam, and the patient should 
follow up with them for further assessment of this
.
# Type 2 Diabetes controlled with complications
The patient metformin was held until the patients renal function 
improved and it was then re-started prior to d/c.
.
# Transitional Issues:
-The patient has pending blood cultures from ___ which need 
follow up
-The patient should follow up with ENT in ___ weeks for routine 
follow up following hospitalization for AOM, OE and acute 
sinusitis and the vocal cord abnormality
-The patient should follow up with his PCP ___ ___ weeks with a 
repeat BUN/Creatine and blood pressure check as his blood 
pressure was borderline high and with DM may merit starting a 
anti hypertensive medication.
.
.
4. Benign Hypertension
- will defer antihypertensives to his PCP unless it becomes very 
uncontrolled

 
Medications on Admission:
metformin 500 BID
Z-Pack (partially completed)
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.
Disp:*30 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
3. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for Pain: do not take more then 4 g per day.
Disp:*60 Tablet(s)* Refills:*0*
4. CIPRODEX 0.3-0.1 % Drops, Suspension Sig: Three (3) drops 
Otic three times a day for 9 days: please place 3 drops in right 
ear (AD)TID until ___.
Disp:*QS for 9 days * Refills:*0*
5. morphine 15 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for ear/sinus pain for 10 days: take as needed 
for moderate to severe pain.
Disp:*40 Tablet(s)* Refills:*0*
6. sodium chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
Q6H (every 6 hours).
Disp:*2 bottles* Refills:*2*
7. ipratropium-albuterol ___ mcg/actuation Aerosol Sig: ___ 
Puffs Inhalation BID (2 times a day).
Disp:*4 inhalers* Refills:*0*
8. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO Q12H (every 12 hours) for 8 days: please take until 
___.
Disp:*16 Tablet(s)* Refills:*0*
9. Outpatient Lab Work
Please draw a basic metabolic panel (including BUN/Creat) in 1 
week and fax to PCP ___. ___
10. Neilmed Sinus Rinse Bottle     Packet Sig: One (1) flush 
Nasal twice a day for 14 days: please continue irrigation until 
follow up with ENT.
Disp:*QS for above course * Refills:*0*
11. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
12. tramadol 50 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours for 14 days: please take for moderate pain and headaches.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute sinusitis
right otitis media
right otitis externa
left serous otitis media
presumed right TM perforation
acute renal failure with history of CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to ___ with complaints of ringing in your ears and 
drainage coming from your ears.  You were also found to have 
acute kidney injury and a sinus infection.  You were placed on 
IV antibiotics for an ear infection of your inner and outer ear 
and you improved.  You were transitioned to po antibiotics and 
remained afebrile.  Your kidney injury resolved with IV fluids 
an encouraging po intake.  You should continue your antibiotics 
for a totla of 14 days.

Medication changes:
1) augmentin 875 Q12H, last dose is ___
2) Ciprodex 3gtts AD TID x 10 days, last dose is ___ 
3) Nasal saline irrigation with OTC NeilMed saline BID
4) morphine sulfate ___ 15 mg Q6H prn severe pain
5) docusate 100 BID to be taken until off pain medications
6) miralax 17 g QD prn for constipation

Other instructions
- Dry ear precautions: (Do not swim, Place a cotton ball in the
ear and thin layer of vaseline on top prior to showering)
- No q-tips in EAC
- Nasal saline irrigation with OTC NeilMed saline BID
- Return to ED if worsening pain, swelling, ear swells
shut, facial weakness, vertigo, fevers, chills.
- Follow up in ___ in ___ weeks for
re-evaluation
-Follow up with PCP ___ ___ weeks
 
Followup Instructions:
___